US07465744B2
3.3 (2-Acetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-(phenyl)methanone
N-[2-(4-Benzoylphenyl)ethyl]acetamide (16.46 mmol, 4.40 g) was introduced into glacial acetic acid (20 ml). Concentrated sulfuric acid (25 ml) and then formalin (49.29 mmol, 4.00 g) were slowly added thereto at 30° C. The mixture was stirred for 2 days and poured into ice-water, and the aqueous phase was extracted with ethyl acetate. The organic phase was washed with aqueous sodium carbonate solution, dried and concentrated. The residue was stirred with diethyl ether and the solid resulting therefrom was filtered off with suction. 1.6 g of the title compound were obtained as a beige-colored solid with a melting point of 110-113° C.

reactant | N-[2-(4-Benzoylphenyl)ethyl]acetamide | 16.46 mmol, 4.40 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)CCNC(C)=O | C17H17NO2
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | formalin | 49.29 mmol, 4.00 g | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (2-Acetyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-(phenyl)methanone | 1.6 g | C(C)(=O)N1CC2=CC(=CC=C2CC1)C(=O)C1=CC=CC=C1 | C18H17NO2
